US04518596
8-(N-Benzyl-methylamino)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 118 from 8-(N-benzyl-methylamino)-2-chloro-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 121°-123° C.) and piperazine.

reactant | 8-(N-benzyl-methylamino)-2-chloro-4-morpholino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCOCC2)Cl)C | C18H19ClN6O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(N-Benzyl-methylamino)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2)C | C22H28N8O
